US04908481
It has also been disclosed that 4-hydroxy-benzaldehyde can be condensed with acetone to give 4-hydroxy-benzalacetone, which is then hydrogenated to 4-(4-hydroxy-phenyl)-butan-2-one (cf. J. Am. Chem. Soc. 70 (1948), 3360). The 4-hydroxy-benzaldehyde required as the starting compound for this two-stage process is, however, difficult to prepare and therefore very expensive. Furthermore, the overall yield of 1-(4-hydroxy-phenyl)-butan-3-one obtained by this process is unsatisfactory.

reactant | 4-hydroxy-benzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | acetone | CC(=O)C | C3H6O
product | 4-hydroxy-benzalacetone | OC1=CC=C(C=CC(C)=O)C=C1 | C10H10O2
